US09029504B2
2,7-Dihydroxy-9-fluorenone (1 g, 4.71 mmol) was dissolved in DMF (40 ml), and potassium carbonate (1.95 g, 14.1 mmol) and docosyl bromide (96%, 4.02 g, 9.91 mmol) were added. The mixture was stirred overnight at 80° C., docosyl bromide (0.40 g, 0.99 mmol) was further added and the mixture was stirred overnight. After completion of the reaction, the reaction mixture was cooled to room temperature, 1N hydrochloric acid (120 ml) was added thereto in a water bath to allow precipitation. The crystals were collected by filtration and slurry washed once with 1N hydrochloric acid (40 ml), once with pure water (40 ml) and once with methanol (40 ml) to give 2,7-didocosyloxy-9-fluorenone (4.20 g, docosyl bromide mixture).

reactant | 2,7-Dihydroxy-9-fluorenone | 4.71 mmol, 1 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | potassium carbonate | 14.1 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | docosyl bromide | 9.91 mmol, 4.02 g | C(CCCCCCCCCCCCCCCCCCCCC)Br | C22H45Br
reactant | docosyl bromide | 0.99 mmol, 0.40 g | C(CCCCCCCCCCCCCCCCCCCCC)Br | C22H45Br
reactant | hydrochloric acid | 1N, 120 ml | Cl | ClH
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2,7-didocosyloxy-9-fluorenone | 4.20 g | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCCCCCCCCCCCCCCCCCCCCC)=O | C57H96O3
